US05075326
252 g (3.0 mols) of sodium bicarbonate are added to a solution of 360 g (1.8 mols) of 2,4-dichloro-5-nitrothiazole in 1.5 l of acetonitrile. A mixture of 139.5 g (1.5 mols) of aniline and 1,500 ml of acetonitrile is then added dropwise at -10° C. to -15° C. in the course of about 4.5 hours and the mixture is subsequently stirred at the same temperature for a further 4 hours. It is then stirred into 15 l of ice-water and the precipitate is filtered off, washed with water and dried. To remove excess 2,4-dichloro-5-nitrothiazole, the product is stirred into 2.4 l of petroleum ether at room temperature, filtered off, washed with petroleum ether and dried. 361.7 g (94.4% of theory) of 2-anilino-4-chloro-5-nitrothiazole of melting point 186° C. to 187° C. (decomposition) are obtained.

reactant | sodium bicarbonate | 3.0 mols, 252 g | C([O-])(O)=O.[Na+]
reactant | 2,4-dichloro-5-nitrothiazole | 1.8 mols, 360 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
reactant | aniline | 1.5 mols, 139.5 g | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 1.5 l | C(C)#N | C2H3N
solvent | acetonitrile | 1,500 ml | C(C)#N | C2H3N
product | 2-anilino-4-chloro-5-nitrothiazole | 361.7 g, 94.4% | N(C1=CC=CC=C1)C=1SC(=C(N1)Cl)[N+](=O)[O-] | C9H6ClN3O2S
